US07612114B2
[5-Methoxy-2-(6-methoxynaphthalen-2-yl)phenyl][4-(2-piperidin-1-yl-ethoxy)phenyl]methanone
Synthesized from (4-hydroxyphenyl)[5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl]methanone (1.3 g) and 1-(2-chloroethyl)piperidine hydrochloride (970 mg) according to an analogous synthetic method to Example 383 described below, the title compound (yellow viscous oil) (1.4 g) was obtained.

reactant | (4-hydroxyphenyl)[5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl]methanone | 1.3 g | OC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)C1=CC2=CC=C(C=C2C=C1)OC | C25H20O4
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 970 mg | Cl.ClCCN1CCCCC1
product | [5-Methoxy-2-(6-methoxynaphthalen-2-yl)phenyl][4-(2-piperidin-1-yl-ethoxy)phenyl]methanone | 1.4 g | COC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=CC2=CC=C(C=C2C=C1)OC | C32H33NO4
